US05266570
N-(1-[9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl]-4-piperidyl)-2-isopropoxyacetamide
Using a procedure similar to that described in Example 21 except starting with N-(1-[9,10-dihydro-9,10-methanoanthracen-9-ylmethyl]-4-piperidyl)-2-bromoacetamide and isopropanol, the title compound was obtained as a white solid (39%), mp 134.5°-5.5° C.; MS(CI): 405 (M+H); NMR (300 MHz,DMSO-d6): 1.10(d, 6H, J=6.0 Hz), 1.52-1.61(br m, 4H), 2.28(br m, 2H), 2.46(s, 2H), 2.95(br m, 2H), 3.35(s, 2H), 3.58(septet, 1H, J=5.7 Hz), 3.65(br s, 1H), 3.78(s, 2H), 4.31(s, 1H), 6.92(br m, 4H), 7.19(d, 2H, J=7.0 Hz), 7.27(d, 2H, J=6.5 Hz), 7.34(d, 1H, J=8.0 Hz).

reactant | N-(1-[9,10-dihydro-9,10-methanoanthracen-9-ylmethyl]-4-piperidyl)-2-bromoacetamide | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CN3CCC(CC3)NC(CBr)=O | C23H25BrN2O
reactant | isopropanol | C(C)(C)O | C3H8O
product | N-(1-[9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl]-4-piperidyl)-2-isopropoxyacetamide | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CN3CCC(CC3)NC(COC(C)C)=O | C26H32N2O2
